US04638067
1-Ethyl-6,8-difluoro-1,4-dihydro-7-(2,7-diazaspiro[4.4]non-2-yl)-4-oxo-3-quinolinecarboxylic acid
A suspension of 0.81 g (3.0 mmol) 1-ethyl-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid in 40 ml acetonitrile was treated with 0.80 g (6.3 mmol) 2,7-diazaspiro[4.4]nonane [J. Org. Chem. 46, 2757 (1981)] and the mixture stirred two days at room temperature, refluxed 1.5 hours, cooled, and filtered to afford 1.17 g of the title compound, mp 234°-240° C. (dec).

reactant | 1-ethyl-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 3.0 mmol, 0.81 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 2,7-diazaspiro[4.4]nonane | 6.3 mmol, 0.80 g | C1NCCC12CNCC2 | C7H14N2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-Ethyl-6,8-difluoro-1,4-dihydro-7-(2,7-diazaspiro[4.4]non-2-yl)-4-oxo-3-quinolinecarboxylic acid | 1.17 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC2(CC1)CNCC2)F)=O)C(=O)O | C19H21F2N3O3
